US06281227B1
B. 4-Chloro-6-methyl-quinazoline
6-Methyl-3H-quinazolin-4-one (1.1 g, 6.9 mmol) is dissolved in toluene (70 mL). To the solution is added triethyl amine (1.82 g, 18 mmol) and P(O)Cl3 (1.06 g, 6.9 mmol). The solution is heated to reflux. After 3 h, the solution is poured into water (100 mL). The solution is diluted with EtOAc (200 mL). The layers are separated. The organic layer is washed with water, saturated NaHCO3 (aq.) and saturated NaCl (aq.). The organic layer is dried over MgSO4, filtered and concentrated. The title compound is obtained as an oil (0.75 g, 4.2 mmol).

reactant | 6-Methyl-3H-quinazolin-4-one | 6.9 mmol, 1.1 g | CC=1C=C2C(NC=NC2=CC1)=O | C9H8N2O
reactant | triethyl amine | 18 mmol, 1.82 g | C(C)N(CC)CC | C6H15N
reactant | P(O)Cl3 | 6.9 mmol, 1.06 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 100 mL | O | H2O
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 4-Chloro-6-methyl-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C | C9H7ClN2
